US05565479
2-(4-Imidazolylmethyl)-5-methoxy-8H-indeno[1,2-d]thiazole
Starting compounds: 2-bromo-6-methoxy-1-indanone, 4-imidazolylthioacetamide hydrochloride

reactant | 2-bromo-6-methoxy-1-indanone | BrC1C(C2=CC(=CC=C2C1)OC)=O | C10H9BrO2
reactant | 4-imidazolylthioacetamide hydrochloride | Cl.N1C=NC(=C1)CC(=S)N
product | 2-(4-Imidazolylmethyl)-5-methoxy-8H-indeno[1,2-d]thiazole | N1C=NC(=C1)CC=1SC2=C(N1)C=1C=C(C=CC1C2)OC | C15H13N3OS
